US07601868B2
4-(1-pyrrolidinylmethyl)benzoic acid hydrochloride
A solution of methyl 4-(1-pyrrolidinylmethyl)benzoate hydrochloride (3.18 g, 12.4 mmol) in 6N hydrochloric acid (30 ml) was stirred at 100° C. for 16 hrs. The solvent was evaporated under reduced pressure, and the residue was powderized with tetrahydrofuran to give the title compound (1.74 g).

reactant | methyl 4-(1-pyrrolidinylmethyl)benzoate hydrochloride | 12.4 mmol, 3.18 g | Cl.N1(CCCC1)CC1=CC=C(C(=O)OC)C=C1
solvent | hydrochloric acid | 6N, 30 ml | Cl | ClH
product | 4-(1-pyrrolidinylmethyl)benzoic acid hydrochloride | 1.74 g | Cl.N1(CCCC1)CC1=CC=C(C(=O)O)C=C1 | InChI=1S/C12H15NO2.ClH/c14-12(15)11-5-3-10(4-6-11)9-13-7-1-2-8-13;/h3-6H,1-2,7-9H2,(H,14,15);1H
